US04612378
47.4 g of 2-mercaptobenzimidazole and 40.7 g of itaconic acid, mixed in finely powdered form, are introduced into 150 ml of 70% aqueous sulfuric acid in the course of 1 hour. The temperature is kept at 40° to 43°, with stirring. The mixture is then allowed to react completely at the above temperature over a period of 11/2 hours and the reaction mixture is diluted with water and ice to about 2 liters. The product is precipitated by addition of 30% aqueous sodium hydroxide solution to pH 4 and filtered off. After washing with water and drying in vacuo at about 30°, 92.5 g of 3-(benzimidazol-2-ylthio)-propane-1,2-dicarboxylic acid are obtained in the form of a dihydrate of melting point 113° (decomposition), corresponding to 97% of theory.

reactant | 2-mercaptobenzimidazole | 47.4 g | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
reactant | itaconic acid | 40.7 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
reactant | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3-(benzimidazol-2-ylthio)-propane-1,2-dicarboxylic acid | 92.5 g | N1=C(NC2=C1C=CC=C2)SCC(CC(=O)O)C(=O)O | C12H12N2O4S
